US05521170
A solution of 5-{3-hydroxy-4-[2-(4-methylphenyl)benzoylamino]benzoyl}-1-[(4-methyl-1-piperazinyl)carbonylmethyl]-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one (350 mg), 3-dimethylaminopropyl chloride hydrochloride (96.4 mg) and potassium carbonate (230 mg) in N,N-dimethylformamide (15 ml) were stirred for 4 hours at 80° C. The mixture was diluted with ethyl acetate and washed with water, saturated aqueous sodium bicarbonate and brine. The organic solution was dried over sodium sulfate, concentrated, and purified by silica gel column chromatography (SiO2 10 g, 15% methanol in chloroform) to give 5-{3-dimethylaminopropoxy-4-[2-(4-methylphenyl)benzoylamino]benzoyl}-1-[(4-methyl-1-piperazinyl)carbonylmethyl]-1,3,4,5-tetrahydro-1,5-benzodiazepin -(2H)-one (150 mg).

reactant | 5-{3-hydroxy-4-[2-(4-methylphenyl)benzoylamino]benzoyl}-1-[(4-methyl-1-piperazinyl)carbonylmethyl]-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one | 350 mg | OC=1C=C(C(=O)N2CCC(N(C3=C2C=CC=C3)CC(=O)N3CCN(CC3)C)=O)C=CC1NC(C1=C(C=CC=C1)C1=CC=C(C=C1)C)=O | C37H37N5O5
reactant | 3-dimethylaminopropyl chloride hydrochloride | 96.4 mg | Cl.CN(CCCCl)C
reactant | potassium carbonate | 230 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-{3-dimethylaminopropoxy-4-[2-(4-methylphenyl)benzoylamino]benzoyl}-1-[(4-methyl-1-piperazinyl)carbonylmethyl]-1,3,4,5-tetrahydro-1,5-benzodiazepin | 150 mg | CN(CCCOC1=C(C(=O)N2CCCN(C3=C2C=CC=C3)CC(=O)N3CCN(CC3)C)C=CC(=C1)NC(C1=C(C=CC=C1)C1=CC=C(C=C1)C)=O)C | C42H50N6O4
